US05955492
a) 2-phenoxybenzyl alcohol
2-Phenoxybenzoic acid (2.5 g, 11.7 mmol) was dissolved in THF and added dropwise over 15 min to a solution of lithium aluminum hydride (443 mg, 11.7 mmol) in THF. After 5 min, water (0.44 mL) was added slowly, followed by 15% aqueous NaOH (0.44 mL) and water (1.33 mL). The solid was removed by vacuum filtration and the filtrate was concentrated to give the title compound (2.1 g, 90%).

reactant | 2-Phenoxybenzoic acid | 11.7 mmol, 2.5 g | O(C1=CC=CC=C1)C1=C(C(=O)O)C=CC=C1 | C13H10O3
reactant | lithium aluminum hydride | 11.7 mmol, 443 mg | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | water | 0.44 mL | O | H2O
reactant | NaOH | 0.44 mL | [OH-].[Na+]
reactant | water | 1.33 mL | O | H2O
solvent | THF | C1CCOC1 | C4H8O
product | 2-phenoxybenzyl alcohol | 2.1 g, 90% | O(C1=CC=CC=C1)C1=C(CO)C=CC=C1 | C13H12O2
